US06555634B1
Step 2 Preparation of 1-(5,6-Dimethoxy-1H-inden-1-yl)-N-(1,1-dimethylethyl)-1,1-dimethylsilanamine
(5,6-Dimethoxy-1H-inden-1-yl)lithium (2.5 g, 13.73 mmol) slurried in 40 mL of THF was added to a solution of N-(tert-butyl)-N-(1-chloro-1,1-dimethylsilyl)amine (3.185 g, 19.22 mmol) in 100 mL of THF over a 25 min period. After stirring for 18 h, the volatile components were removed under reduced pressure. The residue solution was extracted with hexane (40 mL). After filtration the volatile components were removed in under vacuum to give 3.95 g, 94 percent yield of the desired product as a light yellow oil.

reactant | (5,6-Dimethoxy-1H-inden-1-yl)lithium | 13.73 mmol, 2.5 g | COC=1C=C2C=CC(C2=CC1OC)[Li]
reactant | N-(tert-butyl)-N-(1-chloro-1,1-dimethylsilyl)amine | 19.22 mmol, 3.185 g | CC(C)(C)N[Si](C)(C)Cl | C6H16ClNSi
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(5,6-Dimethoxy-1H-inden-1-yl)-N-(1,1-dimethylethyl)-1,1-dimethylsilanamine | 3.95 g, 94 percent yield | COC=1C=C2C=CC(C2=CC1OC)[Si](NC(C)(C)C)(C)C | C17H27NO2Si
